US06218404B1
4-(4-chlorobenzyl)-1-(3-hydroxybutyl)piperidine hydrochloride
2[1-(4-(4-chlorobenzyl)piperidin)]ethyl methyl ketone. To a solution of 4-(4-chlorobenzyl)piperidine (1.0 g, 4.78 mmol) in methyl vinyl ketone (1.0 ml) was added H2O (1 drop) and the resulting solution stirred at 110° C. for 2 h. The crude mixture was purified by filtration on silica gel using CH2Cl2/MeOH as eluant to afford the title compound (1.20 g, 90%) as a pale yellow oil: 1H NMR (CDCl3) 1.35-1.55 (m, 5H), 1.63 (d, J=12.3, 2H), 2.055 (t, J=9.6, 2H), 2.154: (s, 2H), 2.40 (d, J=6.3, 2H), 2.748 (s, 2H), 2.972 (d, J=11.4, 2H), 7.034 (d, J=8.1, 2H), 7.218 (d, J=8.1, 2H).

reactant | 4-(4-chlorobenzyl)piperidine | 4.78 mmol, 1.0 g | ClC1=CC=C(CC2CCNCC2)C=C1 | C12H16ClN
reactant | methyl vinyl ketone | 1.0 ml | C(=C)C(=O)C | C4H6O
catalyst | H2O | 1 drop | O | H2O
product | 4-(4-chlorobenzyl)-1-(3-hydroxybutyl)piperidine hydrochloride | 1.20 g, 90% | Cl.ClC1=CC=C(CC2CCN(CC2)CCC(C)O)C=C1 | InChI=1S/C16H24ClNO.ClH/c1-13(19)6-9-18-10-7-15(8-11-18)12-14-2-4-16(17)5-3-14;/h2-5,13,15,19H,6-12H2,1H3;1H
